US04085118
B. Preparation of 4-[5-(3,4-Dichlorophenyl)-2-furanyl]-4-hydroxybutanoic Acid
A mixture of 3.13 g (0.010 mole) of 4-[5-(3,4-dichlorophenyl)-2-furanyl]-4-oxobutanoic acid and 50 ml of 95% dioxane/water was treated portionwise with 0.95 g (0.025 mole) of NaBH4 while maintaining the temperature below 20° by means of an ice bath. The resulting near solution was allowed to stand overnight at room temperature and was then added to ice/water. After acidifying with 20% hydrochloric acid, the resulting oily mixture was extracted with ether and the ethereal extract dried over MgSO4. The ether was removed on a Calab evaporator yielding 3 g (96%) of product as a residual oil.

reactant | 4-[5-(3,4-dichlorophenyl)-2-furanyl]-4-oxobutanoic acid | 0.010 mole, 3.13 g | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)C(CCC(=O)O)=O | C14H10Cl2O4
reactant | NaBH4 | 0.025 mole, 0.95 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane water | 50 ml | O1CCOCC1.O
product | 4-[5-(3,4-Dichlorophenyl)-2-furanyl]-4-hydroxybutanoic Acid | 3 g, 96% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)C(CCC(=O)O)O | C14H12Cl2O4
